US05886181
4-Acetyl-1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide
168.7 g (0.705 mol) of 1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide was placed in 1.92 l of a butyl acetate/acetonitrile mixture (4:1). The suspension was heated to 50° C. and 68.2 g (0.812 mol) of sodium hydrogen carbonate was added. A solution of 57.0 g (0.726 mol) of acetyl chloride in 120 ml of butyl acetate was added dropwise over 30 minutes. The reaction mixture was then stirred for a further 40 minutes at 50° C. 190 ml of water was added cautiously and the aqueous phase was separated off and re-extracted with 200 ml of butyl acetate at 50° C. The combined organic extracts were concentrated to 1100 ml and cooled slowly to 2° C. to induce crystallization. The solid was filtered off and rewashed with 100 ml of cold butyl acetate. Recrystallization from 700 ml of butyl acetate gave 183.8 g (92.7%) of the title compound in the form of white crystals. The melting point of the title compound was: 133.5° to 134.6° C. Other data concerning the title compound was:

reactant | 1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | 0.705 mol, 168.7 g | C(C)(C)(C)NC(=O)C=1N(CCNC1)C(CC)=O | C12H21N3O2
reactant | sodium hydrogen carbonate | 0.812 mol, 68.2 g | C(O)([O-])=O.[Na+]
reactant | acetyl chloride | 0.726 mol, 57.0 g | C(C)(=O)Cl | C2H3ClO
reactant | water | 190 ml | O | H2O
solvent | butyl acetate acetonitrile | 1.92 l | C(C)(=O)OCCCC.C(C)#N
solvent | butyl acetate | 120 ml | C(C)(=O)OCCCC | C6H12O2
product | 4-Acetyl-1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | 183.8 g, 92.7% | C(C)(C)(C)NC(=O)C=1N(CCN(C1)C(C)=O)C(CC)=O | C14H23N3O3
